US07179823B1
To a solution of ethyl 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-hydroxy-1H-pyrazol-4-yl]propionate (452 mg) in N,N-dimethylformamide (10 ml), sodium hydride (60%, oily, 40.0 mg) was added at 0° C., and the solution was stirred at room temperature for 30 minutes. Benzyl bromide (0.178 ml) was added to the reaction mixture, which was stirred at room temperature for one hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then, with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-benzyloxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-1H-pyrazol-4-yl]propionate (383 mg, yield: 71%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | ethyl 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-hydroxy-1H-pyrazol-4-yl]propionate | 452 mg | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)O)C=C1)C | C24H25N3O6
reactant | sodium hydride | 40.0 mg | [H-].[Na+]
reactant | Benzyl bromide | 0.178 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-benzyloxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-1H-pyrazol-4-yl]propionate | 383 mg, yield: 71% | C(C1=CC=CC=C1)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1 | C31H31N3O6
